US07923561B2
3,5-Difluoro-N-[2-(4-methoxy-indan-1-ylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=482.5 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 3,5-difluorobenzenesulfonyl chloride and rac-4-methoxy-indane-1-ylamine

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,5-difluorobenzenesulfonyl chloride | FC=1C=C(C=C(C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | rac-4-methoxy-indane-1-ylamine | COC1=C2CCC(C2=CC=C1)N | C10H13NO
product | 3,5-Difluoro-N-[2-(4-methoxy-indan-1-ylamino)-quinolin-5-yl]-benzenesulfonamide | FC=1C=C(C=C(C1)F)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1CCC2=C(C=CC=C12)OC | C25H21F2N3O3S
